US09216980B2
Step 3: 6-Bromo-4-iodo-pyridin-3-ylamine
(6-Bromo-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester (13.6 g, 34.1 mmol) was dissolved in dichloromethane (150 mL) and trifluoroacetic acid (50 mL) was then added. The resultant solution was stirred at ambient temperature for 2 h then evaporated under reduced pressure. The resultant residue was treated with a saturated solution of sodium hydrogen carbonate and the resultant solid was treated with water (50 mL) then extracted with ethyl acetate (2×200 mL). The combined organic layer was dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to afford the title compound as an off-white solid (10.0 g, 98%). 1H NMR (CDCl3, 300 MHz): 7.81 (s, 1H), 7.73 (s, 1H), 4.14 (s, 2H). LCMS (Method B): RT=3.03 min, M+H+=299/301.

reactant | (6-Bromo-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester | 34.1 mmol, 13.6 g | C(C)(C)(C)OC(NC=1C=NC(=CC1I)Br)=O | C10H12BrIN2O2
reactant | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 6-Bromo-4-iodo-pyridin-3-ylamine | 10.0 g, 98% | BrC1=CC(=C(C=N1)N)I | C5H4BrIN2
